US09446040B2
To a solution of [4-(2-Ethyl-imidazo[4,5-c]quinolin-1-yl)-butyl]-(tetrahydro-thiophen-3-yl)-amine in dichloromethane was added triethyl amine (1.5 eq.) and acetic anhydride (1.5 eq.) and stirred at ambient temperature for 4 hrs. Reaction mixture was then diluted with dichloromethane and washed with saturated sodium bicarbonate solution. Organic layer was dried over sodium sulphate and concentrated under reduced pressure to afford N-[4-(2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-N-(tetrahydro-3-thienyl) acetamide.

reactant | [4-(2-Ethyl-imidazo[4,5-c]quinolin-1-yl)-butyl]-(tetrahydro-thiophen-3-yl)-amine | C(C)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCCNC1CSCC1 | C20H26N4S
reactant | triethyl amine | 1.5 eq. | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 1.5 eq. | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[4-(2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-N-(tetrahydro-3-thienyl) acetamide | C(C)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCCN(C(C)=O)C1CSCC1 | C22H28N4OS
